US03953444
3,3,4,4-Tetramethyl-1,2-diazetine-1,2-dioxide
The product could also be obtained by oxidation of the dihydroxylamino precursor with sodium periodate. Thus, N,N-dihydroxy 2,3-dimethyl-2,3-diaminobutane (1.5 g) in water (50 ml) was stirred for 30 min. with aqueous sodium periodate (4.5 g in ca. 100 ml water). The product precipitated out and was washed with water, dried (MgSO4), and evaporated to give the product (800 mg. 65°) T.L.C. (silica, CHCl3 /MeOH;4/1) one spot, Rf 0.8

reactant | N,N-dihydroxy 2,3-dimethyl-2,3-diaminobutane | 1.5 g | ON(C(C)(C(C)(N)C)C)O | C6H16N2O2
reactant | sodium periodate | ca. 100 ml, 4.5 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | water | 50 ml | O | H2O
product | 3,3,4,4-Tetramethyl-1,2-diazetine-1,2-dioxide | CC1([N+](=[N+](C1(C)C)[O-])[O-])C | C6H12N2O2
